US08053454B2
N-[5-Chloro-2-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-carboxamide
The title compound was prepared essentially according to the method of Example 4, but using 5-Chloro-2-(1H-tetrazol-5-yl)aniline (1.0 mmol) and benzo[b]thiophene-2-carbonyl chloride. After precipitation, the product was further purified by recrystallization in ethanol to yield the desired product (19.6 mg, 5%). 1H NMR (400 MHz, d6-DMSO): δ 8.61 (s, 1H), 8.31 (s, 1H), 8.09 (m, 3H), 7.53 (m, 3H). MS (EI) for C16H10ClN5OS: 355.8 (M+H).

reactant | 5-Chloro-2-(1H-tetrazol-5-yl)aniline | 1.0 mmol | ClC=1C=CC(=C(N)C1)C1=NN=NN1 | C7H6ClN5
reactant | benzo[b]thiophene-2-carbonyl chloride | S1C2=C(C=C1C(=O)Cl)C=CC=C2 | C9H5ClOS
product | N-[5-Chloro-2-(1H-tetrazol-5-yl)phenyl]-1-benzothiophene-2-carboxamide | 19.6 mg, 5% | ClC=1C=CC(=C(C1)NC(=O)C=1SC2=C(C1)C=CC=C2)C2=NN=NN2 | C16H10ClN5OS
